US08017626B2
Method 2: 6-Iodo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione
To a stirred solution of 5-iodo-2-(methylamino)benzoic acid (10 g, 36 mmol), sodium carbonate (4 g, 36 mmol) and water (130 ml, 7218 mmol), cooled to 0° C., was slowly added, via addition funnel, a 2M phosgene (18 ml, 36 mmol) solution in toluene. After 2 hrs, the precipitated product was isolated by filtration. The solids were washed with 100 ml of water, 150 ml of a 1:1 mixture ethanol and ether, 100 ml of ether, and dried under vacuum to give the desired product. Yield=7.15 g.

reactant | 5-iodo-2-(methylamino)benzoic acid | 36 mmol, 10 g | IC=1C=CC(=C(C(=O)O)C1)NC | C8H8INO2
reactant | sodium carbonate | 36 mmol, 4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 7218 mmol, 130 ml | O | H2O
reactant | phosgene | 36 mmol, 2M, 18 ml | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-Iodo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | IC1=CC2=C(N(C(OC2=O)=O)C)C=C1 | C9H6INO3
